US05326776
Ethyl 3-allylamino-1-methylpyrazole-4-carboxylate
Ethyl 3-amino-1-methylpyrazole-4-carboxylate, prepared by the method of Schmidt et al., Helvetica Chim. Acta. 42 349 (1959), (12.5 g, 7.40 mmol) was dissolved in 80 mL of 1,3-dimethyl-3,4,5,6-tetrahydro2(1H)-pyrimidinone (DMPU) and cooled to -40° C. A 1M solution of sodium hexamethyldisilazide in tetrahydrofuran (80 mL, 8.0 mmol) was added dropwise. After 8 minutes at -35° C., the reaction was cooled to -40° C. and 13.16 g (10.8 mmol) of allyl bromide was added dropwise. The reaction mixture was allowed to warm to 10° C. over 90 minutes. Water was added and the mixture was extracted with ether. The combined organic extracts were washed with water (3×), dried over sodium sulfate and concentrated in vacuo to afford a mixture of mono- and di-allyl products plus 10% unreacted starting material. Separation by column chromatography on silica gel eluting with 30% ethyl acetate in hexane afforded 5.26 g (34%) of the title compound as a colorless oil.

reactant | Ethyl 3-amino-1-methylpyrazole-4-carboxylate | NC1=NN(C=C1C(=O)OCC)C | C7H11N3O2
reactant | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | tetrahydrofuran | 8.0 mmol, 80 mL | O1CCCC1 | C4H8O
reactant | allyl bromide | 10.8 mmol, 13.16 g | C(C=C)Br | C3H5Br
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro2(1H)-pyrimidinone | 80 mL | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | Water | O | H2O
product | Ethyl 3-allylamino-1-methylpyrazole-4-carboxylate | 5.26 g, 34% | C(C=C)NC1=NN(C=C1C(=O)OCC)C | C10H15N3O2
